US05958942
iii) Synthesis of 4,5-dihydro-4-[4-[(2,2,2-trifluoro)-ethanesulfonamido]butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione hydrochloride
To a suspension of 440 mg (1.09 mmol) of 4,5-dihydro-4-[4-[(2,2,2-trifluoro)ethanesulfonamido]butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione in 20 ml of methanol was added 0.15 ml of conc. HCl, and the solvent was distilled off. To the residue was added acetone, and the resulting solid product was collected by filtration, followed by washing with acetone and drying to give 435 mg of the desired compound (90.6%, colorless solid), m.p.154.0-155.0° C.

reactant | 4,5-dihydro-4-[4-[(2,2,2-trifluoro)ethanesulfonamido]butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 1.09 mmol, 440 mg | FC(CS(=O)(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | C15H15F3N4O4S
reactant | HCl | 0.15 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 4,5-dihydro-4-[4-[(2,2,2-trifluoro)-ethanesulfonamido]butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione hydrochloride | 435 mg, 90.6% | Cl.FC(CS(=O)(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | InChI=1S/C15H15F3N4O4S.ClH/c16-15(17,18)9-27(25,26)20-6-1-2-7-21-13(23)10-4-3-5-12-19-8-11(14(21)24)22(10)12;/h3-5,8,20H,1-2,6-7,9H2;1H
